US06953787B2
N-Trifluoroacetyl-3-methoxyphenethylamine
A solution of 3-methoxyphenethylamine (10.0 g, 64.0 mmol) in dichloromethane (150 mL), was cooled to 0 C., and treated with pyridine (6.5 mL, 83.5 mmol) followed by the dropwise addition of trifluoracetic anhydride (17.9 g, 83.5 mmol) and the resulting mixture stirred for 3 hours while warming to 20 C. The product mixture was diluted with EtOAc (500 mL), washed sequentially with 10% aqueous HCl (100 mL), water (100 mL), brine (100 mL), dried with Na2SO4 and concentrated to give 15.8 g of a yellow oil. 1H NMR (400 MHz, CDCl3) d 7.26 (dd, J=8, 8 Hz, 1 H), 6.81 (d, J=8 Hz, 1 H), 6.77 (d, J=8 Hz, 1 H), 6.72 (s, 1 H), 6.30 (bs, 1 H), 3.80 (s, 3 H), 3.62 (dd, J=7, 7 Hz, 2 H), 6.77 (d, (dd, J=7, 7 Hz, 2 H). MS calculated for C11H12F3NO2+H: 248, observed: 248.

reactant | 3-methoxyphenethylamine | 64.0 mmol, 10.0 g | COC=1C=C(CCN)C=CC1 | C9H13NO
reactant | pyridine | 83.5 mmol, 6.5 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoracetic anhydride | 83.5 mmol, 17.9 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | N-Trifluoroacetyl-3-methoxyphenethylamine | 15.8 g | FC(C(=O)NCCC1=CC(=CC=C1)OC)(F)F | C11H12F3NO2
